US07816557B2
3-{4-[1-(4′-Fluoro-2,6-dimethyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoylamino}-propionic acid, Isomer 1
This compound is made in a manner substantially similar to Example 117 using isomer 1 of 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester and 4-fluorophenylboronic acid as starting materials in step D. MS (ES): 476.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-3-methyl-butyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CC(C)C)OC1=CC(=C(C(=C1)C)Br)C)=O)=O | C24H30BrNO4
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 3-{4-[1-(4′-Fluoro-2,6-dimethyl-biphenyl-4-yloxy)-3-methyl-butyl]-benzoylamino}-propionic acid | FC1=CC=C(C=C1)C1=C(C=C(C=C1C)OC(CC(C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1)C | C29H32FNO4
